US06162791
Preparation of 3-methoxy-5-(N-carbobenzyloxy-L-phenylalanyl-L-alaninamido)-[1,2,4]thiadiazole
To a solution of 5-amino-3-methoxy-[1,2,4]thiadiazole (0.37 g, 2.8 mmol) and N-carbobenzyloxy-L-phenylalanyl-L-alanine, N-Cbz-Phe-Ala-OH, (1.0 g, 2.7 mmol) in DMF (25 mL) was added 1,3-dicyclohexylcarbodiimide, DCC, (0.56 g, 2.7 mmol). After stirring for 30 min, 1-hydroxybenzotriazole hydrate, HOBT, (0.36 g, 2.7 mmol) was added and the resulting mixture was stirred at room temperature for 20 h. Volatile materials were removed in vacuo and the residue was purified by column chromatography on silica gel using a solvent mixture of dichloromethane and methanol (96/4) thereby affording the title compound as a white solid (1.2 g). Further purification by cristallization and chromatography on silica gel gave 3-methoxy-5-(N-carbobenzyloxy-L-phenylalanyl-L-alaninamido]-[1,2,4]thiadiazole (0.87 g, 67% yield). M.p. 161-162° C.; 1H-NMR (CDCl3) δ7.14-7.38 (m, 12H, 10Ar-H and 2 NH), 5.92 (br. s, 1H, NH), 5.06 (s, 2H, OCH), 4.38 (m, 1H, CHCH2Ar), 4.00 (m, 1H, CHCH3), 3.97 (s, 3H, OMe), 3.00-3.08 (m, 2H, CHCH2Ar), 1.34 (d, J=8.9 Hz, 3H, Me); MS (m/z) 484 (M+ +1), 416, 361, 316, 285, 185, 132, 75. The latter compound was also prepared by using diphenylphosphoryl azide and triethylamine instead of DCC/HOBT in 27.7% yield.

reactant | 5-amino-3-methoxy-[1,2,4]thiadiazole | 2.8 mmol, 0.37 g | NC1=NC(=NS1)OC | C3H5N3OS
reactant | N-carbobenzyloxy-L-phenylalanyl-L-alanine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O | C20H22N2O5
reactant | N-Cbz-Phe-Ala-OH | 2.7 mmol, 1.0 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C20H22N2O5
reactant | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | DCC | 2.7 mmol, 0.56 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 1-hydroxybenzotriazole hydrate | O.ON1N=NC2=C1C=CC=C2
reactant | HOBT | 2.7 mmol, 0.36 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3-methoxy-5-(N-carbobenzyloxy-L-phenylalanyl-L-alaninamido)-[1,2,4]thiadiazole | 1.2 g | COC1=NSC(=N1)NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)C)=O | C23H25N5O5S
